US08748624B2
STEP C: Ethyl 3-(5-(2-formyl-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate
2-Chloro-6-methoxy-4-(trifluoromethyl)benzaldehyde (272.1 mg, 1.14 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (516.2 mg, 1.48 mmol), SPhos (140.5 mg, 0.34 mmol), Pd(OAc)2 (38.4 mg, 0.17 mmol) and K3PO4 (726.3 mg, 3.42 mmol) were dissolved in wet PhMe (8 mL) and the resulting mixture was heated to 90° C. After 16 h the resulting mixture was diluted with water and extracted with EtOAc. The combined organic extracts were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | 2-Chloro-6-methoxy-4-(trifluoromethyl)benzaldehyde | 1.14 mmol, 272.1 mg | ClC1=C(C=O)C(=CC(=C1)C(F)(F)F)OC | C9H6ClF3O2
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 1.48 mmol, 516.2 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | SPhos | 0.34 mmol, 140.5 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | K3PO4 | 3.42 mmol, 726.3 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | PhMe | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.17 mmol, 38.4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Ethyl 3-(5-(2-formyl-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate | C(=O)C1=C(C=C(C=C1OC)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C20H19F3N2O5
